US05877174
In 5 ml of N,N-dimethylformamide was dissolved 0.2 g of 1-[4-(4-benzyloxycarbonylamidinophenoxy)butyl]-2,3-dioxopiperazine, followed by adding thereto 20 mg of sodium hydride (60%, oil), and the resulting mixture was stirred at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature and 0.17 g of diphenyl-methyl α-bromophenylacetate was added thereto. After stirring at the same temperature for 2 hours, the reaction mixture was added to a mixed solvent of 20 ml of ethyl acetate and 20 ml of water. The organic layer as separated, washed with water and then a saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent; chloroform: methanol=20:1) to obtain 0.29 g of diphenylmethyl α-[4-[4-(4-benzyloxycarbonylamidino-phenoxy) butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetate as a colorless oil.

reactant | 1-[4-(4-benzyloxycarbonylamidinophenoxy)butyl]-2,3-dioxopiperazine | 0.2 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(OCCCCN2C(C(NCC2)=O)=O)C=C1 | C23H26N4O5
reactant | sodium hydride | 20 mg | [H-].[Na+]
reactant | diphenyl-methyl α-bromophenylacetate | 0.17 g | BrC(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C21H17BrO2
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 20 ml | O | H2O
product | diphenylmethyl α-[4-[4-(4-benzyloxycarbonylamidino-phenoxy) butyl]-2,3-dioxopiperazin-1-yl]-α-phenylacetate | 0.29 g | C(C1=CC=CC=C1)OC(=O)NC(=N)C1=CC=C(OCCCCN2C(C(N(CC2)C(C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2)=O)=O)C=C1 | C44H42N4O7
